US05192765
2-[2-(Benzodioxan-6-yl)ethylamino]-1-(diphenylmethoxy)-2-methylpropane
A mixture of 2-amino-1-diphenylmethoxy-2-methylpropane (369 mg -- see Preparation 1), 6-(2-bromoethyl)benzodioxan (243 mg -- see Preparation 10), potassium carbonate (415 mg) and potassium iodide (166 mg) in acetonitrile (40 ml) was heated under reflux for 48 hours and evaporated. The residue was partitioned between ethyl acetate and water and the organic layer was washed with water, dried over sodium sulphate and evaporated. The residue was purified by chromatography on silica (7 g) using ethyl acetate plus 0-5% methanol as the eluant. Appropriate fractions were combined and evaporated to give the title compound as a colourless oil which was characterised as a hemihydrate (130 mg, 31%).

reactant | 2-amino-1-diphenylmethoxy-2-methylpropane | 369 mg | NC(COC(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C17H21NO
reactant | 6-(2-bromoethyl)benzodioxan | 243 mg | BrCCC1=CC2=C(OCCO2)C=C1 | C10H11BrO2
reactant | potassium carbonate | 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 166 mg | [I-].[K+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-[2-(Benzodioxan-6-yl)ethylamino]-1-(diphenylmethoxy)-2-methylpropane | O1CCOC2=C1C=CC(=C2)CCNC(COC(C2=CC=CC=C2)C2=CC=CC=C2)(C)C | C27H31NO3
